Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
headache and blurry vision
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI:
___ is a ___ male with a PMHx of CKD III, possible 
HTN
(per Atrius, patient denies), possible hyperlipidemia (per
Atrius, patient denies), and MGUS who presents with headaches 
and
right field blurriness lasting seconds and an abnormal MRI with 
a
small acute right occipito-parietal infarct and larger subacute
left superior occipital infarct with patchy enhancement.

Two weeks ago, he began to have headaches, which is unusual for 
him.
Prior to this, he has been taking allergy medications for ___
days, so he attributed the headaches to these. He experienced 5
minutes of severe pain (starts in right posterior neck and
radiates to right temple, sometimes holocephalic, dull 
character,
___ severity) followed by ___ minutes of a less severe pain.
Subsequently, he would be back at baseline. These episodes
occurred ___ times per day for 3 days. He noted that his home BP
was 170/100 (confirmed by using a different cuff). By the time 
he
saw his PCP, his headaches had resolved, and no intervention was
done. BP 130s/80s at PCP ___. ___ days later, the headaches
returned as before. He then had 3 episodes of blurring of his
right visual field lasting ___ seconds. He denies loss of 
vision
or double vision. He went to see his PCP again on ___, and an
MRI brain was ordered which revealed bilateral occipital 
infarcts
as detailed above. He was then sent into the hospital for
evaluation. 

No associated aura, photophobia, phonophobia, nausea, vomiting.
No positional component. Does nto wake him from sleep and no AM
headaches. Denies recent neck manipulation or chiropractor
visits. Does lift weights (up to 130 pounds) but denies recent
change in routine. 

On neuro ROS, the pt denies loss of vision, diplopia, 
dysarthria,
dysphagia, lightheadedness, vertigo, tinnitus, and hearing
difficulty. Denies difficulties producing or comprehending
speech.  Denies focal weakness, numbness, and parasthesiae. No
bowel or bladder incontinence or retention. Denies difficulty
with gait.
 
Past Medical History:
CKD III
possible HTN (per Atrius, patient denies)
possible hyperlipidemia (per Atrius, patient denies)MGUS         


gout
diverticulosis 
spermatocele

Surgical History  (Last Verified - None on file):
Right arthroscopic knee surgery    
 
Social History:
___
Family History:
Mother and maternal aunt had strokes or MIs (patient unsure) at
age ___.        
 
Physical Exam:
Physical Exam:
Vitals: T: 98.5 BP 130-257/83-91 HR ___ RR 18 SpO2 >97% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity.
Pulmonary: no WOB
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. No adventitious movements, such as tremor, noted.
No asterixis noted.  
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L 5   5    5    5    5     5   5    5    5    5    5   5 
 R 5   5    5    5    5     5   5    5    5    5    5   5
Others tested: EDB, FFl

-Sensory: No deficits to light touch, cold sensation,
proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: Left intention tremor. No dysdiadochokinesia
noted. No dysmetria on HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. 

 
Pertinent Results:
___ 06:40PM   LACTATE-2.3*
___ 06:33PM   ALT(SGPT)-13 AST(SGOT)-19 ALK PHOS-82 TOT 
BILI-0.3
___ 06:33PM   %HbA1c-5.3 eAG-105
___ 06:33PM   TRIGLYCER-129 HDL CHOL-52 CHOL/HDL-4.1 
LDL(CALC)-135*
___ 06:33PM   WBC-11.4* RBC-4.18* HGB-11.8* HCT-37.8* 
MCV-90 MCH-28.2 MCHC-31.2* RDW-14.3 RDWSD-46.8*
___ 06:33PM   PLT COUNT-384
___ 06:33PM   ___ PTT-33.9 ___
___ 06:33PM   GLUCOSE-95 UREA N-21* CREAT-1.5* SODIUM-138 
POTASSIUM-4.2 CHLORIDE-104 TOTAL CO2-25 ANION GAP-13
___ 06:00AM BLOOD TSH-4.8*
 
Brief Hospital Course:
Mr. ___ was admitted to the Neurology Stroke service where he 
remained asymptomatic and without headache. MRI brain with and 
without contrast showed small acute right occipital parietal 
infarct and a somewhat larger subacute left superior occipital 
infarct, the latter with patchy enhancement. No hemorrhage. No 
midline shift or brain herniation. There was questionable linear 
hyperdensity in the right vertebral artery which was noted to be 
artifact on repeat MRA. He underwent transthoracic 
echocardiogram with bubble study which was normal. He was 
maintained on telemetry without arrhythmia during his 3 day 
hospitalization. Creatinine remained at baseline around 1.7. His 
TSH was elevated at 4.8. Otherwise, LDL was elevated at 130, and 
he was started on Aspirin 81 mg daily and atorvastatin 40 mg 
daily. He remained asymptomatic during his admission therefore 
does not require home services. Given the cryptogenic origin of 
his ischemic strokes, he will be discharged on 30-day cardiac 
monitor to assess for paroxysmal Afib. He should follow up with 
PCP and has ___ follow up scheduled in about 1 month.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Febuxostat 40 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth qpm Disp #*30 Tablet 
Refills:*0 
3.  Febuxostat 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of headache and changes in 
your vision resulting from an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
High cholesterol (LDL = 135)

We are changing your medications as follows:
- Aspirin 81mg, daily 
- Atorvastatin 40mg, daily 

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Thank you for allowing us to participate in your care.
- Your ___ Neurology Team 
 
Followup Instructions:
___